US05286721
To a stirred solution of 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)butan-3-ol (90.00 g) in N,N-dimethylformamide (800 ml) were added imidazole (85.51 g) and t-butyldimethylsilyl chloride (61.53 g). The resulting mixture was allowed to stand at ambient temperature for 14 hours. The mixture was diluted with ethyl acetate (2.4 l), washed successively with water (1.6 l) and brine (1 l), and dried over magnesium sulfate. Removal of the solvents gave a residue, which was chromatographed on silica gel (1 l) eluting with a mixture of n-hexane and ethyl acetate (9:1-7:3, V/V) to give 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)-3-(t-butyldimethylsilyloxy)butane (115.40 g).

reactant | 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)butan-3-ol | 90.00 g | C(C=C)OC(=O)NCC(C(C)O)CNC(=O)OCC=C | C13H22N2O5
reactant | imidazole | 85.51 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 61.53 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 2.4 l | C(C)(=O)OCC | C4H8O2
product | 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)-3-(t-butyldimethylsilyloxy)butane | 115.40 g | C(C=C)OC(=O)NCC(C(C)O[Si](C)(C)C(C)(C)C)CNC(=O)OCC=C | C19H36N2O5Si
